US09085555B2
D. 2,3-Difluoro-5-methoxy-benzylamine
To a solution of 1-azidomethyl-2,3-difluoro-5-methoxy-benzene (710 mg, 3.57 mmol) in EtOH (20 mL) was added Pd/C 10% (70 mg) and the reaction mixture was stirred at RT overnight under an H2 atmosphere. The reaction mixture was filtered through Celite, followed by washing with EtOH and CH2Cl2. The combined filtrates were evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (CH2Cl2/acetone 9:1, then CH2Cl2/MeOH 9:1) to afford the title compound as a yellowish oil. TLC Rf (CH2Cl2/MeOH 9:1)=0.32; MS (LC/MS): 174.0 [M+H]+; tR (HPLC conditions c): 2.30 min.

reactant | 1-azidomethyl-2,3-difluoro-5-methoxy-benzene | 3.57 mmol, 710 mg | N(=[N+]=[N-])CC1=C(C(=CC(=C1)OC)F)F | C8H7F2N3O
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 2,3-Difluoro-5-methoxy-benzylamine | FC1=C(CN)C=C(C=C1F)OC | C8H9F2NO
